US05674470
Into a 100 ml round bottom flask containing 5.2 g of DO3A dissolved in 22 ml of H2O (pH adjusted to 8.25 with dilute NaOH) was added 1.35 ml of acrylonitrile. The reaction was allowed to stir at room temperature for 14 hours. After 14 hours, HPLC analysis indicated complete conversion to 1,4,7-tris(carboxymethyl)-10-(2'-cyanoethyl)-1,4,7,10-tetraazacyclododecane. The reaction mixture was taken to dryness on a rotary evaporator to yield a glassy solid. The solid was dissolved in methanol and then taken to dryness on a rotary evaporator to yield 5.9 g of crude 1,4,7-tricarboxymethyl)-10-(2'cyanoethyl)-1,4,7,10-tetraazacyclododecane as a white solid. 3.0 g of the crude 1,4,7-tris(carboxymethyl)-10-(2'-cyanoethyl)-1,4,7,10-tetraazacyclododecane was dissolved in 150 ml of H2O, and the solution acidified with 6 ml of concentrated HCl. The solution was then added to a 500 ml hydrogenation vessel containing 1.5 g of 10% Pd/C and the reaction mixture hydrogenated at 50 psi H2 at room temperature for 14 hours. After 14 hours the catalyst removed over a Celite bed and the filtrate taken to dryness on a rotary evaporator. The sample was dissolved in 200 ml of H2O and applied to a 2.5×20 cm column of Dowex 50X-2 (H+ form). The column was eluted with 4 L of 0.5 H2O and the material eluted off the column with 1.0 L of 0.5M NH4OH. The eluant was concentrated to dryness on a rotary evaporator, the residue dissolved in methanol and taken to dryness on a rotary evaporator to yield 3.8 g of the ammonium salt of 1,4,7-tris(carboxymethyl)-10-(3'-aminopropyl)-1,4,7,10-tetraazacyclododecane.

reactant | DO3A | 5.2 g | C1CN(CCN(CCN(CCN1)CC(=O)O)CC(=O)O)CC(=O)O | C14H26N4O6
reactant | NaOH | [OH-].[Na+]
reactant | acrylonitrile | 1.35 ml | C(C=C)#N | C3H3N
reactant | 1,4,7-tris(carboxymethyl)-10-(2'-cyanoethyl)-1,4,7,10-tetraazacyclododecane | C(=O)(O)CN1CCN(CCN(CCN(CC1)CCC#N)CC(=O)O)CC(=O)O | C17H29N5O6
solvent | H2O | 22 ml | O | H2O
solvent | methanol | CO | CH4O
product | 10-(2'cyanoethyl)-1,4,7,10-tetraazacyclododecane | C(#N)CCN1CCNCCNCCNCC1 | C11H23N5
